US07442696B2
This compound was prepared using General Method 1 (EXAMPLE 1) from methyl 2-amino-3-methylbenzoate and methyl magnesium bromide (3 M in diethyl ether) in ether to afford 2-(2-amino-3-methylphenyl)propan-2-ol.

reactant | methyl 2-amino-3-methylbenzoate | NC1=C(C(=O)OC)C=CC=C1C | C9H11NO2
reactant | methyl magnesium bromide | 3 M | C[Mg]Br
reactant | ether | CCOCC | C4H10O
product | 2-(2-amino-3-methylphenyl)propan-2-ol | NC1=C(C=CC=C1C)C(C)(C)O | C10H15NO
